US08487121B2
N-(7-Chloro-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-4-yl)-2-(1-naphthyl)acetamide
The title compound was prepared from Intermediate 10 (200 mg, 0.761 mmol) and 1-naphthylacetic acid (171 mg, 0.913 mmol) in presence of EDCI.HCl (221 mg, 1.141 mmol), HOBt (176 mg, 1.141 mmol) and triethylamine (317 μl, 2.283 mmol) in THF (5 ml) as described in Example 1 to give 250 mg of the product as a white solid; IR (KBr) 3236, 2945, 1638, 1412, 1223, 788 cm−1; 1H NMR (300 MHz, CDCl3) δ 1.47-1.55 (m, 2H), 1.72-1.78 (m, 2H), 2.09 (t, J=7.8 Hz, 3H), 2.16-2.26 (m, 1H), 4.09 (q, J=6.9 Hz, 2H), 5.11-5.19 (m, 1H), 5.29 (d, J=8.4 Hz, 1H), 6.55 (s, 2H), 6.66 (s, 1H), 7.35-7.42 (m, 2H), 7.49-7.59 (m, 2H), 7.77 (d, J=7.2 Hz, 1H), 7.82 (d, J=7.8 Hz, 1H), 7.98 (d, J=7.8 Hz, 1H); APCI-MS (m/z) 392.12 (M+H)+.

reactant | 1-naphthylacetic acid | 0.913 mmol, 171 mg | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | EDCI.HCl | 1.141 mmol, 221 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.141 mmol, 176 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 2.283 mmol, 317 μl | C(C)N(CC)CC | C6H15N
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(7-Chloro-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-4-yl)-2-(1-naphthyl)acetamide | ClC1=CC=C2C(CC3(CCC3)OC2=C1)NC(CC1=CC=CC2=CC=CC=C12)=O | C24H22ClNO2
